US06943183B2
3. Methyl 4-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzoate
Using the method in Example 154, this compound was prepared from methyl 4-(2-hydroxy-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methylsulfonylbenzoate (1.98 g, 5.3 mmol), (R)-2-imidazol-1-yl-1-phenylethanol (1.00 g, 5.3 mmol), Ph3P (2.10 g, 8.0 mmol), and diethyl azodicarboxylate (1.39 g, 8.0 mmol) as a solid-foam, 2.78 g, 96% yield; mp 105° C. NMR spectrum was consistent with structure. Calcd. For C30H28N2O6S.H2O:

reactant | methyl 4-(2-hydroxy-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methylsulfonylbenzoate | 5.3 mmol, 1.98 g | OC1=C(C=2CCCC(C2C=C1)=O)CS(=O)(=O)C1=CC=C(C(=O)OC)C=C1 | C19H18O6S
reactant | (R)-2-imidazol-1-yl-1-phenylethanol | 5.3 mmol, 1.00 g | N1(C=NC=C1)C[C@H](O)C1=CC=CC=C1 | C11H12N2O
reactant | Ph3P | 8.0 mmol, 2.10 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethyl azodicarboxylate | 8.0 mmol, 1.39 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | Methyl 4-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzoate | 96% yield | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CS(=O)(=O)C1=CC=C(C(=O)OC)C=C1 | C30H28N2O6S
